US06015826
Into a 100 mL three necked round bottom flask equipped with a mechanical stirrer, thermometer, and dropping funnel under an atmosphere of nitrogen was added THF (25 mL), methylhydrazine (2.53 g, 2.92 mL, 55 mmol), and triethylamine (4.35 g, 43 mmol). The temperature of the mixture was lowered to approximately 5° C. and crude 4-chlorophenylsulfonyl chloride (10.5 g, 50 mmol, contained 4-chlorophenyl sulfonic acid) dissolved in 25 mL of THF was added dropwise at a rate such that the temperature did not rise over 10° C. The cooling bath was removed and the mixture was allowed to warm to stir overnight at RT. Ether (100 mL was added to the reaction mixture and the resulting slurry was washed with water (50 mL), brine (50 mL), dried (Na2SO4), and the solvent was removed in vacuo to give 5.4 g (49% yield) of 2-methyl-2-[(4-chlorophenyl)sulfonyl] hydrazine. 1H NMR (CDCl3) δ 7.8 (d, 2H), 7.6 (d, 2H), 3.6 (s, b, 2H), 2.9 (s, 3H).

reactant | methylhydrazine | 55 mmol, 2.92 mL, 2.53 g | CNN | CH6N2
reactant | triethylamine | 43 mmol, 4.35 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenylsulfonyl chloride | 50 mmol, 10.5 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-methyl-2-[(4-chlorophenyl)sulfonyl] hydrazine | 5.4 g, 49% yield | CN(N)S(=O)(=O)C1=CC=C(C=C1)Cl | C7H9ClN2O2S
